US07601870B2
2,6,N′-Trimethyl-N′-(4-trifluoromethyl-benzyl)-benzene-1,4-diamine
Concentrated aqueous hydrochloric acid (2 mL) was added to N-{2,6-dimethyl-4-[methyl-(4-trifluoromethyl-benzyl)-amino]-phenyl}-acetamide (0.20 g) and heated to 130° C. for 80 minutes in a sealed microwave process vial. The crude mixture was poured onto solid potassium hydroxide (2 g) mixed with ice. The product was extracted with 1,2-dichloroethane (100 mL), and the organic phase was filtered through solid sodium carbonate (5 g), dried over magnesium sulfate and concentrated in vacuo to furnish 0.10 g (57% yield) of the title compound as a pale brown oil. LC-MS (m/z) 309 (MH+); tR=2.11, (UV, ELSD) 99%, 98%. 1H NMR (500 MHz, DMSO-d6): 2.03 (s, 6H), 2.76 (s, 3H), 3.94 (b, 2H), 4.41 (s, 2H), 6.39 (s, 2H), 7.42 (d, 2H), 7.65 (d, 2H).

reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | N-{2,6-dimethyl-4-[methyl-(4-trifluoromethyl-benzyl)-amino]-phenyl}-acetamide | 0.20 g | CC1=C(C(=CC(=C1)N(CC1=CC=C(C=C1)C(F)(F)F)C)C)NC(C)=O | C19H21F3N2O
reactant | potassium hydroxide | 2 g | [OH-].[K+]
product | 2,6,N′-Trimethyl-N′-(4-trifluoromethyl-benzyl)-benzene-1,4-diamine | 0.10 g, 57% yield | CC1=C(C(=CC(=C1)N(CC1=CC=C(C=C1)C(F)(F)F)C)C)N | C17H19F3N2
